US05428053
Phenylmethyl-[2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate
To a solution of 1-aminopyrrole (2.46 g) and carbobenzyloxyglycine (6.28 g) in 120 ml of dry DCM and 10 ml of dry dimethylformamide was added DDC (8.00 g). The reaction mixture was stirred at room temperature over a period of 64 hours. The precipitate was removed by filtration and stirred in boiling ethyl acetate. The mixture was filtered and the filtrate was combined with the filtrate of the reaction mixture and evaporated to dryness. The residue was purified by flash column chromatography (silica gel, DCM/methanol 20:1) yielding a first fraction (2.97 g) which was contaminated by DCU. A second fraction recrystallized from ethyl acetate afforded 1.54 g of the product as crystals, m.p. 146°-147° C.

reactant | 1-aminopyrrole | 2.46 g | NN1C=CC=C1 | C4H6N2
reactant | carbobenzyloxyglycine | 6.28 g | C(=O)(OCC1=CC=CC=C1)NCC(=O)O | C10H11NO4
solvent | DCM | 120 ml | C(Cl)Cl | CH2Cl2
solvent | dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | Phenylmethyl-[2-oxo-2-(1H-pyrrol-1-ylamino)ethyl]carbamate | 1.54 g | C1(=CC=CC=C1)COC(NCC(NN1C=CC=C1)=O)=O | C14H15N3O3
